US08895596B2
Step B: 4-{[5-(biphenyl-4-yl)-6-chloro-1H-benzimidazol-2-yl]oxy}cyclohexane-carboxylic Acid.
To a solution of ethyl 4-{[5-(biphenyl-4-yl)-6-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate (0.075 g, 0.124 mmol) in 2 mL of THF was added TBAF (0.750 mL, 0.750 mmol) dropwise via syringe. The reaction was heated at 80° C. of 2 h, and then the volatiles were removed. The resulting crude ester was dissolved in 4 mL of MeOH and treated with 1 mL of 2.5 N NaOH. The reaction was heated at 45° C. for 1.5 h, and then concentrated. The resulting residue was dissolved in H2O and acidified to pH 1 with 2 N HCl. The acidified aqueous layer was extracted with EtOAc. The combined organic layers were washed with 2 N HCl, H2O, and brine. The organic layers were dried over Na2SO4, filtered, and concentrated. Purification of the resulting residue by reverse phase Gilson™ HPLC (30-100% CH3CN/H2O) afforded the title compound as a white solid. LCMS: calculated for C26H23ClN2O3 446.93, observed m/e 446.94 M+ (Rt 2.11/4 min). 1H NMR (500 MHz, CD3OD): δ7.70-7.64 (m, 4H), 7.55 (s, 1H), 7.49 (d, 2H), 7.47-7.42 (m, 2H), 7.39 (s, 1H), 7.37-7.32 (m, 1H), 4.97-4.89 (m, 1H), 2.45-2.35 (m, 1H), 2.36-2.28 (m, 2H), 2.18-2.10 (m, 2H), 1.76-1.61 (m, 2H).

reactant | ethyl 4-{[5-(biphenyl-4-yl)-6-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate | 0.124 mmol, 0.075 g | C1(=CC=C(C=C1)C1=CC2=C(N(C(=N2)OC2CCC(CC2)C(=O)OCC)COCC[Si](C)(C)C)C=C1Cl)C1=CC=CC=C1 | C34H41ClN2O4Si
reactant | TBAF | 0.750 mmol, 0.750 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-{[5-(biphenyl-4-yl)-6-chloro-1H-benzimidazol-2-yl]oxy}cyclohexane-carboxylic Acid | C1(=CC=C(C=C1)C1=CC2=C(NC(=N2)OC2CCC(CC2)C(=O)O)C=C1Cl)C1=CC=CC=C1 | C26H23ClN2O3
